US04256636
Styrene-butadiene latex
2700 Parts by weight of distilled water, 70 parts by weight of the sodium salt of a disproportionated abietic acid, 7.5 parts by weight of n-dodecyl mercaptan and 6 parts by weight of azo-di-isobutyric acid-(N,N'-bis-2-hydroxyethyl)-amidine are initially introduced into a stainless-steel autoclave equipped with an anchor stirrer. The autoclave is evacuated, purged twice with nitrogen (3 bars) and then evacuated again. 435 Parts by weight of styrene and 1065 parts by weight of butadiene are then successively pumped in. With the stirrer rotating at 150 rpm, the contents of the autoclave are heated to 65° C., the pressure amounting to 10.5 bars, and kept at this temperature for 10 hours. The pressure then amounts to 8.0 bars. On completion of the reaction, a solution of 1 part by weight of hydroquinone in 50 parts by weight of distilled water is introduced under pressure for stabilisation.

reactant | sodium | [Na] | Na
reactant | abietic acid | CC(C)C1=CC2=CC[C@@H]3[C@@]([C@H]2CC1)(CCC[C@@]3(C)C(=O)O)C | C20H30O2
reactant | n-dodecyl mercaptan | C(CCCCCCCCCCC)S | C12H26S
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | water | O | H2O
product | Styrene-butadiene | C=CC=C.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C4H6/c1-2-8-6-4-3-5-7-8;1-3-4-2/h2-7H,1H2;3-4H,1-2H2
